US05157114
5'-O-Acetyl-2',3'-dideoxy-5-ethynyl-3'-fluorouridine
To a stirred solution of 2',3'-dideoxy-5-ethynyl-3'-fluorouridine (0.106 g 0.4 mmol) in dry pyridine (5 ml) at 0° C. was added acetic anhydride (0.05 ml, 0.48 mmol) and stirring maintained at 0° C. for 1.5 hours. After stirring at room temperature for 24 hours, a further aliquot of acetic anhydride (0.02 ml, 0.2 mmol) was added and the mixture stirred at room temperature for 3 hours. After quenching with methanol (1 ml) the solvent was removed by evaporation under reduced pressure and co-evaporated with portions of ethanol (2×30 ml). The residue was recrystallised from ethanol to give a white crystalline solid.

reactant | 2',3'-dideoxy-5-ethynyl-3'-fluorouridine | 0.4 mmol, 0.106 g | C(#C)C=1C(NC(N([C@H]2C[C@@H]([C@@H](CO)O2)F)C1)=O)=O | C11H11FN2O4
reactant | acetic anhydride | 0.48 mmol, 0.05 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 0.2 mmol, 0.02 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 5'-O-Acetyl-2',3'-dideoxy-5-ethynyl-3'-fluorouridine | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)C#C)F | C13H13FN2O5
